US07105707B2
The procedure was identical to Example 1, with the exception that 1-hexyne (0.450 ml; 0.329 g; 4.00 mmol) was used as a substrate instead of phenylacetylene. GC analysis of the organic phase of the hydrolyzed reaction sample after 20 h at 65° C. showed the presence of 1.90 mmol (95% yield) of 1-hexynylbenzene and and 0.08 mmol of benzonitrile remaining in the reaction mixture.

reactant | 1-hexyne | 4.00 mmol, 0.450 ml, 0.329 g | C#CCCCC | C6H10
reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
reactant | benzonitrile | 0.08 mmol | C(C1=CC=CC=C1)#N | C7H5N
product | 1-hexynylbenzene | 1.90 mmol, 95% yield | C(#CCCCC)C1=CC=CC=C1 | C12H14
